US08110579B2
According to the saponification/peptide coupling steps described in examples 1.7 and 1.8 respectively, starting from 250 mg (0.5 mmol) of ethyl 6-{4-chloro-3-[(1-methylpyrrolidin-3-yl)oxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate and 100 mg (0.51 mmol) of 2-aminoadamantane-2-carboxylic acid, we obtain 160 mg of 2-({[6-{4-chloro-3-[2-(dimethylamino)ethoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridin-2-yl]carbonyl}amino)adamantane-2-carboxylic acid in the form of white powder.

reactant | ethyl 6-{4-chloro-3-[(1-methylpyrrolidin-3-yl)oxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate | 0.5 mmol, 250 mg | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OCC)C1=C(C=CC=C1OC)OC)OC1CN(CC1)C | C27H29ClN2O5
reactant | 2-aminoadamantane-2-carboxylic acid | 0.51 mmol, 100 mg | NC1(C2CC3CC(CC1C3)C2)C(=O)O | C11H17NO2
product | 2-({[6-{4-chloro-3-[2-(dimethylamino)ethoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridin-2-yl]carbonyl}amino)adamantane-2-carboxylic acid | 160 mg, Yield=47% | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)NC1(C2CC3CC(CC1C3)C2)C(=O)O)C2=C(C=CC=C2OC)OC)OCCN(C)C | C35H40ClN3O6
